US08138171B2
To a solution of methyl rac-(5R,6S)-13-cyclohexyl-10-((((dimethylamino)sulfonyl)amino)carbonyl)-5,6-dihydroxy-3-(methyloxy)-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-6-carboxylate (57 mg, 0.10 mmol) in MeOH/THF (1:1, 2 mL) was added 1M NaOH aq. (0.5 mL). The reaction was sealed and heated at 80° C. for 20 min with microwave irradiation. The reaction was quenched with 1N HCl aq. (0.5 mL), diluted with H2O and concentrated to remove the organic solvents. The resulting precipitates were collected by filtration and dried under vacuum to yield rac-(5R,6S)-13-cyclohexyl-10-((((dimethylamino)sulfonyl)amino)carbonyl)-5,6-dihydroxy-3-(methyloxy)-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-6-carboxylic acid (42 mg, 0.074 mmol, 73%) as a yellow solid. 1HNMR (300 MHz, CD3OD) δ 0.73-2.20 (m, 10H), 2.92-3.05 (m, 1H), 3.02 (s, 6H), 3.54 (d, J=14.8 Hz, 1H), 3.93 (s, 3H), 4.71 (d, J=14.8 Hz, 1H), 4.94 (s, 1H), 7.05 (dd, J=8.4, 2.6 Hz, 1H), 7.40 (d, J=2.6 Hz, 1H), 7.40 (d, J=8.4 Hz, 1H), 7.59 (dd, J=8.4, 1.5 Hz, 1H), 7.89 (d, J=8.4 Hz, 1H), 8.05 (d, J=1.5 Hz, 1H). LCMS: m/e 572 (M+H)+, ret time 3.34 min, column B, 4 minute gradient.

reactant | methyl rac-(5R,6S)-13-cyclohexyl-10-((((dimethylamino)sulfonyl)amino)carbonyl)-5,6-dihydroxy-3-(methyloxy)-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-6-carboxylate | 0.10 mmol, 57 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C(C(C2)(C(=O)OC)O)O)C=C(C=C1)OC)C(=O)NS(=O)(=O)N(C)C | C29H35N3O8S
reactant | NaOH | 1M, 0.5 mL | [OH-].[Na+]
solvent | MeOH THF | 2 mL | CO.C1CCOC1
product | rac-(5R,6S)-13-cyclohexyl-10-((((dimethylamino)sulfonyl)amino)carbonyl)-5,6-dihydroxy-3-(methyloxy)-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-6-carboxylic acid | 0.074 mmol, 42 mg, 73% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C(C(C2)(C(=O)O)O)O)C=C(C=C1)OC)C(=O)NS(=O)(=O)N(C)C | C28H33N3O8S
